US08791134B2
Tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl]amino}acetate.
To a solution of 3-(acetyloxy)-2-oxopropyl acetate (3.0 g, 17.24 mmol) on dichloroethane (70 ml) was added tert-butyl 2-aminoacetate (2.35 ml, 17.24 mmol). The reaction was stirred for 90 minutes before sodium triacetoxyborohydride (5.5 g, 25.86 mmol) was added and stirring was continued for 18 hours. The reaction was quenched by the addition of saturated sodium hydrogen carbonate solution and the crude product was extracted into dichloromethane. The organic phase was separated, dried over MgSO4, filtered and concentrated in vacuo. The title compound was purified by silica column chromatography eluting with 0-40% EtOAc:Hept to yield the title compound (1.93 g, 38% yield). 1H NMR (250 MHz, CHLOROFORM-d) δ 3.96-4.26 (4H, m), 3.30-3.45 (2H, m), 3.06 (1H, quin, 5.4 Hz), 2.09 (6H, s), 1.47 (9H, s).

reactant | 3-(acetyloxy)-2-oxopropyl acetate | 17.24 mmol, 3.0 g | C(C)(=O)OCC(COC(C)=O)=O | C7H10O5
reactant | tert-butyl 2-aminoacetate | 17.24 mmol, 2.35 ml | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | sodium triacetoxyborohydride | 25.86 mmol, 5.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | Tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl]amino}acetate | 1.93 g, 38% yield | C(C)(=O)OCC(COC(C)=O)NCC(=O)OC(C)(C)C | C13H23NO6
